US04931452
Preparation of N-Cyanomethyl-3-Chloro-5-(trifluoromethyl)-2-pyridinone
A mixture of 4.0 g (0.02 mole) of 3-chloro-5-(trifluoromethyl)-2-pyridinol, 2.6 g (0.022 mole) of monobromoacetonitrile, and 4.0 g of potassium carbonate in 40 ml of dimethyl sulfoxide was prepared and stirred at ambient temperature for 3 hours. Water was then added and the light brown solid that formed was separated by filtration and dried to obtain 2.3 g (45 percent of theory) of the title compound: melting point, 84°-85° C. This product had infrared and nmr spectra compatible with the assigned structure.

reactant | 3-chloro-5-(trifluoromethyl)-2-pyridinol | 0.02 mole, 4.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)O | C6H3ClF3NO
reactant | monobromoacetonitrile | 0.022 mole, 2.6 g | BrCC#N | C2H2BrN
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | N-Cyanomethyl-3-Chloro-5-(trifluoromethyl)-2-pyridinone | C(#N)CN1C(C(=CC(=C1)C(F)(F)F)Cl)=O | C8H4ClF3N2O
